US08039680B2
Into a 200 mL flask equipped with a reflux condenser, 2.58 g of sodium borohydride and 25 g of dimethoxyethane were charged. The obtained mixture was adjusted to 50° C. and then, a solution obtained by mixing 6.10 g of 2,3,5,6-tetrafluoroterephthalic acid with 20 g of dimethoxyethane was added dropwise thereto over 1 hour while stirring. The obtained mixture was stirred for 7 hours at 60° C. To the obtained reaction mixture, 20 g of toluene was added followed by cooling to 50° C. Eight point five grams of 35% by weight hydrochloric acid was added dropwise thereto over 1 hour to stir at 60° C. for 6 hours. To the obtained mixture, 30 g of water was added followed by separating to an organic layer and an aqueous layer. The aqueous layer was extracted twice with 30 g of ethyl acetate. The obtained organic layers were mixed and washed with 10 g of a saturated aqueous potassium carbonate solution and then with 10 g of water. The organic layer was concentrated and the obtained solids were recrystallized with toluene and hexane to obtain white powder crystals of 2,3,5,6-tetrafluorobenzenedimethanol. The crystals were analyzed by liquid chromatography absolute calibration curve method to find out that the purity thereof was 95.1%. Yield: 95%.

reactant | sodium borohydride | 2.58 g | [BH4-].[Na+]
reactant | dimethoxyethane | 25 g | C(OC)COC | C4H10O2
reactant | 2,3,5,6-tetrafluoroterephthalic acid | 6.10 g | FC1=C(C(=O)O)C(=C(C(=C1F)C(=O)O)F)F | C8H2F4O4
reactant | dimethoxyethane | 20 g | C(OC)COC | C4H10O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 g | O | H2O
solvent | toluene | 20 g | C1(=CC=CC=C1)C | C7H8
product | 2,3,5,6-tetrafluorobenzenedimethanol | Yield: 95% | FC1(C(C(=C(C=C1F)F)F)CO)CO | C8H8F4O2
